US04374829
A solution of ethyl 4-p-chlorophenyl-2-oxobutyrate (prepared from the acid by esterification with ethanol in refluxing CCl4) and L-alanyl-L-proline in ethanol can be treated with excess NaBH3CN and stirred at room temperature until reaction is complete. The ethanol can then be removed under vacuum and the product absorbed on strong acid ion-exchange resin. By elution with 2% pyridine in water, one can obtain N-(1-ethoxycarbonyl-3-p-chlorophenylpropyl)-L-alanyl-L-proline.

reactant | ethyl 4-p-chlorophenyl-2-oxobutyrate | ClC1=CC=C(C=C1)CCC(C(=O)OCC)=O | C12H13ClO3
reactant | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | L-alanyl-L-proline | N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C8H14N2O3
reactant | NaBH3CN | [BH3-]C#N.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-(1-ethoxycarbonyl-3-p-chlorophenylpropyl)-L-alanyl-L-proline | C(C)OC(=O)C(CCC1=CC=C(C=C1)Cl)N[C@@H](C)C(=O)N1[C@H](C(=O)O)CCC1 | C20H27ClN2O5
